US06608095B2
Ethyl 5-(4-Bromophenyl)-1-[4-(methylsulphonyl)phenyl]-1H-pyrazole-3-carboxylate (step 1)
The title compound was prepared according to the procedure of Example 1 using 2-furanboronic acid instead of 2-thiophenboronic acid acid and 4-[5-[4-Bromophenyl]-3-hydroxymethy-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole instead of 1-[4-(Methylsulfonyl)phenyl]-5-(4-bromophenyl)-3-trifluoromethyl-1H-pyrazole in step 2.

reactant | 2-furanboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | 5-[4-Bromophenyl]-3-hydroxymethy-1-[4-(methylsulfonyl)phenyl]-1H-pyrazole | BrC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)C)CO | C17H15BrN2O3S
product | Ethyl 5-(4-Bromophenyl)-1-[4-(methylsulphonyl)phenyl]-1H-pyrazole-3-carboxylate | BrC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OCC | C19H17BrN2O4S
